US09023844B2
To a solution of 3-bromo-2-(4-fluorophenyl)-7-methyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine (1.5 g, 4.82 mmol, 1 eq) in THF (40 ml) is added a solution of n-Buli (3.314 ml, 1.6 M, 5.30 mmol, 1.1 eq) dropwise at −78° C. After 20 min of stirring, a solution of 1.23 g of 2-isopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (7.23 mmol, 1.1 eq) in THF is added dropwise and the reaction mixture is stirred for 2 hours at −78° C. Then the reaction mixture is quenched by the addition of an aqueous solution of NH4Cl and is extracted with EtOAc. The combined organic phases are washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The crude is purified by silica gel chromatography (eluent cyclohexane/ethyl acetate). 760 mg (42%) of 2-(4-fluorophenyl)-7-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine are obtained.

reactant | 3-bromo-2-(4-fluorophenyl)-7-methyl-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine | 4.82 mmol, 1.5 g, 1 eq | BrC=1C(=NN2C1OCCC2C)C2=CC=C(C=C2)F | C13H12BrFN2O
reactant | 2-isopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 7.23 mmol, 1.23 g, 1.1 eq | C(C)(C)B1OC(C(O1)(C)C)(C)C | C9H19BO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(4-fluorophenyl)-7-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-6,7-dihydro-5H-pyrazolo[5,1-b][1,3]oxazine | 760 mg, 42% | FC1=CC=C(C=C1)C1=NN2C(OCCC2C)=C1B1OC(C(O1)(C)C)(C)C | C19H24BFN2O3
